US07576211B2
Step F: Preparation of 6,7-dihydro-4-hydroxy-7-isobutyl-6-oxo-N-(3-(piperidin-1-yl)propyl)thieno[2,3-b]pyridine-5-carboxamide hydrochloride salt
To a solution of 6,7-dihydro-4-hydroxy-7-isobutyl-6-oxo-N-(3-(piperidin-1-yl)propyl)thieno[2,3-b]pyridine-5-carboxamide (0.11 g, 0.28 mmol) in dichloromethane (0.2 mL) was added hydrogen chloride (0.6 mL, 0.6 mmol, 1.0 M solution in diethyl ether). The reaction mixture became cloudy immediately. Additional amount of diethyl ether was added to cause more solid precipitation. These precipitates were collected by vacuum filtration, washed with ether and dried to give the title compound as an off-white solid (0.11 g, 92% yield). 1H NMR (400 MHz, CDCl3): δ 7.39 (d, 1H), 7.11 (d, 1H), 3.96 (d, 2H), 3.60-2.25 (m, 8H), 2.19-1.79 (m, 8H), 0.99 (d, 6H); MS: m/e 392 (M+H+).

reactant | 6,7-dihydro-4-hydroxy-7-isobutyl-6-oxo-N-(3-(piperidin-1-yl)propyl)thieno[2,3-b]pyridine-5-carboxamide | 0.28 mmol, 0.11 g | OC=1C2=C(N(C(C1C(=O)NCCCN1CCCCC1)=O)CC(C)C)SC=C2 | C20H29N3O3S
reactant | hydrogen chloride | 0.6 mmol, 1.0 M, 0.6 mL | Cl | ClH
reactant | diethyl ether | C(C)OCC | C4H10O
solvent | dichloromethane | 0.2 mL | ClCCl | CH2Cl2
product | 6,7-dihydro-4-hydroxy-7-isobutyl-6-oxo-N-(3-(piperidin-1-yl)propyl)thieno[2,3-b]pyridine-5-carboxamide hydrochloride salt | 0.11 g, 92% yield | Cl.OC=1C2=C(N(C(C1C(=O)NCCCN1CCCCC1)=O)CC(C)C)SC=C2 | InChI=1S/C20H29N3O3S.ClH/c1-14(2)13-23-19(26)16(17(24)15-7-12-27-20(15)23)18(25)21-8-6-11-22-9-4-3-5-10-22;/h7,12,14,24H,3-6,8-11,13H2,1-2H3,(H,21,25);1H
